US05192789
To a stirred solution of 4-methyl-3-phenylmethylimino-1,2,3,4-tetrahydrocyclopent[b]indol-7-ol (2.0 g) in CH2Cl2 (40 ml) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (0.16 g) followed by the dropwise addition of methyl isocyanate (0.39 g) in CH2Cl2 (10 ml). The reaction was monitored via TLC and after 3 hours the solution was concentrated and the precipitate was collected and recrystallized from acetonitrile to give 4-methyl-3-phenylmethylimino-1,2,3,4-tetrahydrocyclopent[b]indol-7-yl methylcarbamate (1.85 grams).

reactant | 4-methyl-3-phenylmethylimino-1,2,3,4-tetrahydrocyclopent[b]indol-7-ol | 2.0 g | CN1C2=C(C=3C=C(C=CC13)O)CCC2=NCC2=CC=CC=C2 | C19H18N2O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.16 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl isocyanate | 0.39 g | CN=C=O | C2H3NO
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-methyl-3-phenylmethylimino-1,2,3,4-tetrahydrocyclopent[b]indol-7-yl methylcarbamate | 1.85 grams | CNC(OC1=CC=2C3=C(N(C2C=C1)C)C(CC3)=NCC3=CC=CC=C3)=O | C21H21N3O2
